US09163011B2
b) [(R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-[bis-(4-methoxy-phenyl)-phenyl-methyl]-amine
To a solution of [bis-(4-methoxy-phenyl)-phenyl-methyl]-[(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-amine (23.4 g, 28.8 mmol) in ammonia (173 ml, 1.21 mol, 7M in methanol) in a microwave vial was added ethylene glycol (240 ml) and methanol (240 ml). Copper oxide Cu2O (1.21 g, 8.46 mmol) was added and the vial was sealed. The reaction mixture was stirred at 80° C. for 43 hours. The cold reaction mixture was diluted with ethyl acetate and washed with water, aqueous ammonia and brine. The organic layer was dried over sodium sulfate, filtered and evaporated. The crude product was chromatographed over silica gel (400 g, dichloromethane/methanol 98:2+0.2% ammonia) to give the title compound: 4.29 g (25% yield).

reactant | [bis-(4-methoxy-phenyl)-phenyl-methyl]-[(R)-4-(6-bromo-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-amine | 28.8 mmol, 23.4 g | COC1=CC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)NC=1OCC([C@@](N1)(C)C1=NC(=CC=C1F)Br)(F)F | C31H27BrF3N3O3
reactant | ammonia | 1.21 mol, 7M, 173 ml | N | H3N
reactant | ethylene glycol | 240 ml | C(CO)O | C2H6O2
reactant | methanol | 240 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | [(R)-4-(6-Amino-3-fluoro-pyridin-2-yl)-5,5-difluoro-4-methyl-5,6-dihydro-4H-[1,3]oxazin-2-yl]-[bis-(4-methoxy-phenyl)-phenyl-methyl]-amine | 25% yield | NC1=CC=C(C(=N1)[C@]1(N=C(OCC1(F)F)NC(C1=CC=CC=C1)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)C)F | C31H29F3N4O3
